### PR TITLE
feat(RingTheory/MvPolynomial/NewtonIdentities): Add proof of Newton's identities

### PR DESCRIPTION
**Pull request by michaellee94**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 1]
```diff
@@ -0,0 +1,320 @@
...
+end PowerSum
+
+section Newton
+
+open Classical Finset Nat
+
+variable (σ : Type) [Fintype σ] [DecidableEq σ] [Fintype τ] (R : Type) [CommRing R]
+  [NoZeroDivisors (MvPolynomial σ R)] [CharZero (MvPolynomial σ R)]
+/-
+  TODO: show that MvPolynomial σ R is an integral domain if R is an integral domain
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: I think we have this result? Maybe I'm misremembering.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 2]
```diff
@@ -0,0 +1,320 @@
...
+def psum (s : Multiset R) (n : ℕ) : R := (s.map (fun (x : R) ↦ x ^ n)).sum
+
+end Multiset
+
+open Finset
+
+variable (σ R) [CommSemiring R] [Fintype σ] [Fintype τ]
+
+/-- The degree-`n` power sum -/
+def psum (n : ℕ) : MvPolynomial σ R := ∑ i in univ, (X i) ^ n
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:68]: Summing univ has a special notation:
```suggestion
def psum (n : ℕ) : MvPolynomial σ R := ∑ i, (X i) ^ n
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 3]
```diff
@@ -0,0 +1,320 @@
...
+  simp_rw [pairs, mem_filter, pairs_pred] at ht
+  exact Or.resolve_right (le_iff_eq_or_lt.mp ht.2.1) hnlt
+
+def weight (k : ℕ) (t : Finset σ × σ) : MvPolynomial σ R :=
+  (-1) ^ (card t.fst) * ((∏ a in t.fst, X a) * (X t.snd) ^ (k - card t.fst) : MvPolynomial σ R)
+
+def T_map (t : Finset σ × σ) : Finset σ × σ :=
+  if t.snd ∈ t.fst then (t.fst.erase t.snd, t.snd) else (insert t.snd t.fst, t.snd)
+
+/-- Needed for Finset.sum_involution -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:111]:
```suggestion
/-- Needed for `Finset.sum_involution` -/
```

**Review by eric-wieser — COMMENTED** [review]
An initial round of style comments; I haven't looked at the proofs or statements yet

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 2 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:68]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 4]
```diff
@@ -0,0 +1,320 @@
...
+  intro
+  rw [rename_psum]
+
+end PowerSum
+
+section Newton
+
+open Classical Finset Nat
+
+variable (σ : Type) [Fintype σ] [DecidableEq σ] [Fintype τ] (R : Type) [CommRing R]
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 5]
```diff
@@ -0,0 +1,320 @@
...
+  [NoZeroDivisors (MvPolynomial σ R)] [CharZero (MvPolynomial σ R)]
+/-
+  TODO: show that MvPolynomial σ R is an integral domain if R is an integral domain
+  TODO: show that MvPolynomial σ R has characteristic zero if R has characteristic zero
+-/
+
+-- The following proof is from Zeilberger, "A combinatorial proof of Newton's identities" (1984)
+def pairs_pred (k : ℕ) (t : Finset σ × σ) := card t.fst ≤ k ∧ (card t.fst = k → t.snd ∈ t.fst)
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 6]
```diff
@@ -0,0 +1,320 @@
...
+  simp_rw [mem_powerset_len_univ_iff.mp hx1]
+
+theorem esymm_mult_psum_to_weight (k : ℕ) :
+    ∑ i in range k, (-1) ^ i * esymm σ R i * psum σ R (k - i) =
+    ∑ t in filter (fun t ↦ card t.fst < k) (pairs σ k), weight σ R k t := by
+  simp_rw [← sum_congr rfl (esymm_mult_psum_summand_to_weight σ R k), sum_equiv_lt_k σ R k]
+
+/-- Newton's identities give a recurrence relation for the kth elementary symmetric polynomial
+in terms of lower degree elementary symmetric polynomials and power sums. -/
+theorem NewtonIdentity (k : ℕ) : (-1) ^ k * (k * esymm σ R k) +
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:316]: Got it! Should it possibly be something like `esymm_recurrence` instead, then?

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 7]
```diff
@@ -0,0 +1,318 @@
...
+
+theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := by
+  intro
+  rw [rename_psum]
+
+end PowerSum
+
+section Newton
+
+open Classical Finset Nat
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:85]: `PairsPred` has to be decidable but includes a set membership predicate. I can figure out how to scope this better.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 1 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: I couldn't get `NoZeroDivisors (MvPolynomial σ R)` to synthesize after adding `[NoZeroDivisors R]`. I might have done this incorrectly, though.

**Comment by michaellee94** [comment]
Thanks for the cursory comments, @eric-wieser! Will address them promptly.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: It's possible we have something only for `IsDomain`.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Done

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Okay, renamed so that it can now be referred to by `Newton.esymm_recurrence`

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 8]
```diff
@@ -0,0 +1,327 @@
...
+
+/-- Needed for `Finset.sum_involution` -/
+def T_map_restr (t : Finset σ × σ) (_ : t ∈ pairs σ k) := T_map σ t
+
+open Classical in
+theorem T_map_pair (t : Finset σ × σ) (h : t ∈ pairs σ k) : T_map_restr σ t h ∈ pairs σ k := by
+  rw [pairs, mem_filter, PairsPred] at *
+  simp_rw [T_map_restr, T_map]
+  split_ifs with h1
+  · simp_all
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:121]: You'll need to remove all the `simp_all` and `simp` calls that don't close the goal (replace by `simp only [...]`)

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 9]
```diff
@@ -0,0 +1,327 @@
...
+
+open Classical in
+def pairs (σ : Type _) [Fintype σ] (k : ℕ) : Finset (Finset σ × σ) :=
+  Finset.univ.filter (PairsPred σ k)
+
+open Classical in
+def card_eq_if_not_lt (t : Finset σ × σ) (ht : t ∈ pairs σ k) (hnlt : ¬card t.fst < k) :
+    card t.fst = k := by
+  simp_rw [pairs, mem_filter, PairsPred] at ht
+  exact Or.resolve_right (le_iff_eq_or_lt.mp ht.2.1) hnlt
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:105]: Can be slightly shorter with
```suggestion
  exact ht.2.1.eq_or_lt.resolve_right hnlt
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 10]
```diff
@@ -0,0 +1,327 @@
...
+    nth_rewrite 2 [← pow_one (X t.snd)]
+    have h3 : card t.fst + 1 ≤ k
+    · have ht1 := h.right.right
+      contrapose! ht1
+      exact And.intro (le_antisymm h.right.left (le_of_lt_succ ht1)) h1
+    simp_rw [← pow_add, ← Nat.add_sub_assoc h3, add_comm, add_tsub_add_eq_tsub_right]
+    rw [← neg_neg ((-1 : MvPolynomial σ R) ^ (card t.fst)), h2]
+    simp
+
+theorem weight_zero_for_fixed_by_T (t : Finset σ × σ) (h : t ∈ pairs σ k)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:177]: The name seems to make more sense for the contraposition of this statement. It might be simpler that way as well:

```lean
theorem weight_zero_for_fixed_by_T' (t : Finset σ × σ) (h : t ∈ pairs σ k)
    (h2 : T_map_restr σ t h = t) : weight σ R k t = 0 := by
  have h3 := weight_compose_T σ R t h
  rw [h2, ← two_mul, _root_.mul_eq_zero] at h3
  exact h3.resolve_left two_ne_zero

theorem weight_zero_for_fixed_by_T (t : Finset σ × σ) (h : t ∈ pairs σ k)
    (h1 : weight σ R k t ≠ 0) : T_map_restr σ t h ≠ t :=
  mt (weight_zero_for_fixed_by_T' σ R t h) h1
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 11]
```diff
@@ -0,0 +1,327 @@
...
+  by_contra h2
+  have h3 := weight_compose_T σ R t h
+  rw [h2, ← two_mul, _root_.mul_eq_zero] at h3
+  cases' h3 with hl hr
+  case inl => exact two_ne_zero hl
+  case inr => exact h1 hr
+
+theorem weight_sum (k : ℕ) : ∑ t in pairs σ k, weight σ R k t = 0 := by
+  exact sum_involution (T_map_restr σ) (weight_compose_T σ R) (weight_zero_for_fixed_by_T σ R)
+    (T_map_pair σ) (T_map_invol σ)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:188]: You can avoid the `by exact`:
```suggestion
theorem weight_sum (k : ℕ) : ∑ t in pairs σ k, weight σ R k t = 0 :=
  sum_involution (T_map_restr σ) (weight_compose_T σ R) (weight_zero_for_fixed_by_T σ R)
    (T_map_pair σ) (T_map_invol σ)
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 12]
```diff
@@ -0,0 +1,327 @@
...
+        exact hi
+      · intro cardpk
+        rw [← cardpk, mem_powerset_len_univ_iff.mp hpr] at hi
+        exact ((lt_irrefl _) hi).elim
+    · exact mem_powerset_len_univ_iff.mp hpr
+
+theorem sum_equiv_lt_k (k : ℕ) (f : Finset σ × σ → MvPolynomial σ R) :
+    (∑ t in filter (fun t ↦ card t.fst < k) (pairs σ k), f t) =
+    ∑ i in range k, ∑ A in powersetLen i univ, (∑ j, f (A, j)) := by
+    have equiv_i (i : ℕ) (hi : i ∈ range k) := sum_equiv_i_lt_k σ R k i hi f
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:234]: The proof should be indented two spaces rather than four

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 13]
```diff
@@ -0,0 +1,327 @@
...
+
+theorem esymm_to_weight (k : ℕ) : k * esymm σ R k =
+    (-1) ^ k * ∑ t in filter (fun t ↦ card t.fst = k) (pairs σ k), weight σ R k t := by
+  rw [esymm, sum_equiv_k σ R k (fun t ↦ weight σ R k t),
+    sum_congr rfl (esymm_summand_to_weight σ R k), mul_comm (k : MvPolynomial σ R) ((-1) ^ k),
+    ← mul_sum, ← mul_assoc, ← mul_assoc, ← pow_add, Even.neg_one_pow]
+  simp
+  use k
+
+theorem esymm_mult_psum_summand_to_weight (k i : ℕ) (_ : i ∈ range k) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:304]: "mult" should probably be "mul"?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Some style suggestions

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 12 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Good catch! Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 13 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 8 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:121]: Will go through and find these with tracing of simps enabled.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 9 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:105]: This theorem actually isn't even being used, so will delete.

Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 14]
```diff
@@ -0,0 +1,321 @@
...
+  TODO: show that MvPolynomial σ R is an integral domain if R is an integral domain
+  TODO: show that MvPolynomial σ R has characteristic zero if R has characteristic zero
+-/
+
+-- The following proof is from Zeilberger, "A combinatorial proof of Newton's identities" (1984)
+def PairsPred (k : ℕ) (t : Finset σ × σ) : Prop := card t.fst ≤ k ∧ (card t.fst = k → t.snd ∈ t.fst)
+
+open Classical in
+def pairs (σ : Type _) [Fintype σ] (k : ℕ) : Finset (Finset σ × σ) :=
+  Finset.univ.filter (PairsPred σ k)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: I think it would be better to drop the `Classical` here, and fix the error that Lean complains about.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 15]
```diff
@@ -0,0 +1,321 @@
...
+  (-1) ^ (card t.fst) * ((∏ a in t.fst, X a) * (X t.snd) ^ (k - card t.fst) : MvPolynomial σ R)
+
+def T_map (t : Finset σ × σ) : Finset σ × σ :=
+  if t.snd ∈ t.fst then (t.fst.erase t.snd, t.snd) else (insert t.snd t.fst, t.snd)
+
+/-- Needed for `Finset.sum_involution` -/
+def T_map_restr (t : Finset σ × σ) (_ : t ∈ pairs σ k) := T_map σ t
+
+open Classical in
+theorem T_map_pair (t : Finset σ × σ) (h : t ∈ pairs σ k) : T_map_restr σ t h ∈ pairs σ k := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:111]: Sorry, I wasn't clear earlier: `open Classical in` should only ever be used on `def`s. If you need it inside a proof, add `classical` to the first line. If the statement complains, then it needs fixing a different way!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 16]
```diff
@@ -0,0 +1,321 @@
...
+    ∑ t in filter (fun t ↦ card t.fst < k) (pairs σ k), weight σ R k t := by
+  simp_rw [← sum_congr rfl (esymm_mul_psum_summand_to_weight σ R k), sum_equiv_lt_k σ R k]
+
+/-- Newton's identities give a recurrence relation for the kth elementary symmetric polynomial
+in terms of lower degree elementary symmetric polynomials and power sums. -/
+theorem esymm_recurrence (k : ℕ) : (-1) ^ k * (k * esymm σ R k) +
+    ∑ i in range k, (-1) ^ i * esymm σ R i * psum σ R (k - i) = 0 := by
+  simp_all [esymm_to_weight σ R k, esymm_mul_psum_to_weight σ R k, ← mul_assoc, ← pow_add,
+    Even.neg_one_pow]
+  rw [add_comm, ← sum_disjUnion (lt_k_disjoint_k σ k), lt_k_disjunion_k σ k, weight_sum σ R k]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:321]:
```suggestion
  rw [add_comm, ← sum_disjUnion (lt_k_disjoint_k σ k), lt_k_disjunion_k σ k, weight_sum σ R k]

end Newton
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 15 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:111]: Got it!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 10 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Done!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 11 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Fixed

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 16 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:322]: Fixed!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 15 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: It does work with `classical` on the first line.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 14 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: I'm probably wrong, but I thought the issue is that `PairsPred` is only decidable classically (I believe set membership decidability reduces to the halting problem). Is there a better way to do this?

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 1 above)
Comment (ericrbg) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: https://leanprover-community.github.io/mathlib_docs/ring_theory/polynomial/basic.html#mv_polynomial.no_zero_divisors seems to exist (excuse the Lean3 docs)

Comment (ericrbg) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: we also have the `char_p` result, but not for `char_zero`: https://leanprover-community.github.io/mathlib_docs/ring_theory/mv_polynomial/basic.html#mv_polynomial.char_p

**Comment by ericrbg** [comment]
I see this is running on a fork - you can ask for branch access on Zulip so that CI will run

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: That's true of `Set`, but not `Finset` for which membership is trivial to decide by iteration.

Comment (eric-wieser) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: You might find it easier if you inline `PairsPred` directly into `def pairs`, since then Lean will know how to decide it automatically.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 1 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: Very nice, thanks for finding! I'm not sure why I'm getting `synthInstance` errors. Will investigate further.

**Comment by michaellee94** [comment]
> I see this is running on a fork - you can ask for branch access on Zulip so that CI will run

Will do!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 14 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: That was giving some kind of error about a mismatch between an inferred and a synthesized `instDecidableAnd`. Will see if I can figure out why.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 1 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:90]: Okay, just needed to import Mathlib.RingTheory.Polynomial.Basic for the first one. Writing up an `instance` for `CharZero` for the other.

File: Mathlib/RingTheory/MvPolynomial/Basic.lean [hunk 17]
```diff
@@ -55,6 +55,19 @@ instance [CharP R p] : CharP (MvPolynomial σ R) p where
 
 end CharP
 
+section CharZero
+
+instance [CharZero R] : CharZero (MvPolynomial σ R) where
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/RingTheory/MvPolynomial/Basic.lean:60]: (also the `CharP` result holds in `CommSemiring`, but this is not something you should worry about! Don't want to get this PR bogged down...)

[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/RingTheory/MvPolynomial/Basic.lean:60]: oh, with this manual proof you can also use `CommSemiring`

[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/Basic.lean:60]: I can add the import and use your suggested one-liner. Thanks!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 8 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Okay, I think the only remaining `simp`s (excepting `simp only`s), `simp_all`s, and `simp_rw`s directly close goals.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 18]
```diff
@@ -0,0 +1,325 @@
...
+open Finset Nat
+
+variable (σ : Type _) [Fintype σ] [DecidableEq σ] [Fintype τ] (R : Type _) [CommRing R]
+  [NoZeroDivisors R] [CharZero R]
+
+-- The following proof is from Zeilberger, "A combinatorial proof of Newton's identities" (1984)
+def PairsPred (k : ℕ) (t : Finset σ × σ) : Prop := card t.fst ≤ k ∧
+  ((card t.fst = k) → t.snd ∈ t.fst)
+
+instance : DecidablePred (PairsPred σ k) := Classical.decPred (PairsPred σ k)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:96]: This is a bad instance, decidable instances should never be non-computable.

I'm pretty sure if you inline `PairsPred` below then lean will find the right instance automatically.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 19]
```diff
@@ -0,0 +1,325 @@
...
+
+def pairs (σ : Type _) [Fintype σ] (k : ℕ) : Finset (Finset σ × σ) :=
+  Finset.univ.filter (PairsPred σ k)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]:
```suggestion
  Finset.univ.filter (fun t => card t.fst ≤ k ∧
  ((card t.fst = k) → t.snd ∈ t.fst))
```
or similar

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 20]
```diff
@@ -0,0 +1,325 @@
...
+
+def weight (k : ℕ) (t : Finset σ × σ) : MvPolynomial σ R :=
+  (-1) ^ (card t.fst) * ((∏ a in t.fst, X a) * (X t.snd) ^ (k - card t.fst) : MvPolynomial σ R)
+
+def T_map (t : Finset σ × σ) : Finset σ × σ :=
+  if t.snd ∈ t.fst then (t.fst.erase t.snd, t.snd) else (insert t.snd t.fst, t.snd)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:105]: I think this might be slightly easier to work with as
```suggestion
  if h : t.snd ∈ t.fst then (t.fst.erase t.snd, t.snd) else (cons t.snd t.fst h, t.snd)
```

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 19 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: image

Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: I can probably just write a proof for `instance DecidablePred` that doesn't rely on `Classical`, but inlining the predicate seems to fail here.

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 20 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Done!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 19 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:99]: [Discussion opened here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Failed.20to.20synthesize.20DecidablePred)

Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Okay, this is fixed! Thank you, @eric-wieser!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 18 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Done!

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean (hunk 19 above)
Comment (michaellee94) [reply Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean]: Done!

**Comment by michaellee94** [comment]
Reopened as https://github.com/leanprover-community/mathlib4/pull/6139 so that CI will run
